US04436726
tert-Butyl 3-hydroxytetradecanoate (314 mg) was acylated by the acid chloride derived from dodecanoic acid (1 g) according to similar manner to that of Preparation 1-(2) to afford tert-butyl 3-dodecanoyloxytetradecanoate (450 mg).

reactant | tert-Butyl 3-hydroxytetradecanoate | 314 mg | OC(CC(=O)OC(C)(C)C)CCCCCCCCCCC | C18H36O3
reactant | dodecanoic acid | 1 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
product | tert-butyl 3-dodecanoyloxytetradecanoate | 450 mg | C(CCCCCCCCCCC)(=O)OC(CC(=O)OC(C)(C)C)CCCCCCCCCCC | C30H58O4
